US08748624B2
STEP C: Ethyl 3-(5-(2-formyl-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(3-chloro-2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate (150 mg, 0.35 mmol), methylboronic acid (31 mg, 0.53 mmol), Pd(dppf)Cl2 (34 mg, 0.05 mmol) and K3Pa4hydrate (322 mg, 1.40 mmol) were dissolved in 1,4-dioxane (2 mL) and the resulting mixture was heated to 90° C. After 10 h the resulting mixture was diluted with water and extracted with EtOAc. The combined organic extracts were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(3-chloro-2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.35 mmol, 150 mg | ClC=1C(=C(C=C(C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C19H16ClF3N2O4
reactant | methylboronic acid | 0.53 mmol, 31 mg | CB(O)O | CH5BO2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 3-(5-(2-formyl-3-methyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1C)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H19F3N2O4
